US08865712B2
a) 5-Bromo-3-methyl-pyridine-2-carboxylic acid tert-butyl ester
To a solution of 5-bromo-3-methyl-pyridine-2-carboxylic acid (10.20 g, 47.2 mmol) and di-tert-butyldicarbonate (20.61 g, 94 mmol) in 100 ml THF were added DMAP (0.577 g). Evolution of CO2 started immediately and the mixture was stirred for 2 h at rt. TBME and sat aq NaHCO3 were added. The layers were separated and the organic layer washed with sat aq NaHCO3 and brine, and dried with MgSO4.H2O. Chromatography on silica gel (hexanes/EtOAc 1-7%) provided the title compound as a yellow liquid.

reactant | 5-bromo-3-methyl-pyridine-2-carboxylic acid | 47.2 mmol, 10.20 g | BrC=1C=C(C(=NC1)C(=O)O)C | C7H6BrNO2
reactant | di-tert-butyldicarbonate | 94 mmol, 20.61 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | CO2 | C(=O)=O | CO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.577 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | TBME | CC(C)(C)OC | C5H12O
product | 5-Bromo-3-methyl-pyridine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NC=C(C=C1C)Br | C11H14BrNO2
